US09376700B2
(S)-cyanomethyl 3-(4-benzoylphenyl)-2-((tert-butoxycarbonyl)amino)propanoate (Boc-Bzf-OCH2CN, 1i)
Chloroacetonitrile (1 mL) and DIPEA (20 mg, 34 μL, 0.21 mmol) were added to Boc-p-benzoylphenylalanine (61 mg, 0.19 mmol). The reaction was stirred for 18 h, then concentrated under reduced pressure. SiO2 flash chromatography (40% ethyl acetate in hexanes) afforded 70 mg of a pale yellow oil in 93% yield. Rf 0.5 in 50% ethyl acetate in hexanes. 1H NMR (500 MHz, CDCl3) δ 7.79 (dd, J=7.1, 4.9 Hz, 4H), 7.59 (t, J=7.6 Hz, 1H), 7.48 (t, J=7.6 Hz, 2H), 7.29 (d, J=8.0 Hz, 2H), 5.00 (d, J=7.4 Hz, 1H), 4.83 (d, J=15.7 Hz, 1H), 4.72-4.69 (m, 2H), 3.25 (dd, J=13.7, 5.8 Hz, 1H), 3.16 (dd, J=13.1, 6.5 Hz, 1H), 1.43 (s, 9H); 13C NMR (125 MHz, CDCl3) δ 196.4, 170.6, 155.1, 140.3, 137.6, 136.9, 132.7, 130.8, 130.2, 129.4, 128.5, 113.9; HRMS (ESI) m/z calcd for C23H24N2NaO5 [M+Na]+ 431.158. found 431.158.

reactant | Chloroacetonitrile | 1 mL | ClCC#N | C2H2ClN
reactant | DIPEA | 0.21 mmol, 34 μL, 20 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | Boc-p-benzoylphenylalanine | 0.19 mmol, 61 mg | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=C(C=C1)C(C1=CC=CC=C1)=O)C(=O)O | C21H23NO5
product | (S)-cyanomethyl 3-(4-benzoylphenyl)-2-((tert-butoxycarbonyl)amino)propanoate | 70 mg, 93% yield | C(C1=CC=CC=C1)(=O)C1=CC=C(C=C1)C[C@@H](C(=O)OCC#N)NC(=O)OC(C)(C)C | C23H24N2O5
